US05177089
N-methyl-N-(2-(3,4-dimethoxyphenyl)ethyl)-N'-isopropyl-1,3-propanediamine
3.87 g of N-methyl-N-(2-(3,4-dimethoxyphenyl)ethyl)-1,3-propanediamine and 15 ml of acetone were dissolved into 50 ml of ethanol. To this was added 0.1 g of platinum oxide and then hydrogenetion was made at room temperature and under pressure of 3 kg/cm2. At the end of 3 hours catalyst was concentrated after filtering and 4.52 of marked compound was obtained as yellow oily matter (yield: 100%).

reactant | N-methyl-N-(2-(3,4-dimethoxyphenyl)ethyl)-1,3-propanediamine | 3.87 g | CN(CCCN)CCC1=CC(=C(C=C1)OC)OC | C14H24N2O2
reactant | acetone | 15 ml | CC(=O)C | C3H6O
catalyst | platinum oxide | 0.1 g | [Pt]=O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | N-methyl-N-(2-(3,4-dimethoxyphenyl)ethyl)-N'-isopropyl-1,3-propanediamine | yield: 100% | CN(CCCNC(C)C)CCC1=CC(=C(C=C1)OC)OC | C17H30N2O2
